US06933304B2
To a suspension of PS-carbodiimide (1.7 g, 1.5 mmoles) in dichloromethane (2 mL) was added 4-(tert-butoxycarbonylamino)butyric acid (305 mg, 1.5 mmoles) and HOBT (230 mg, 1.7 mmoles). After 20 min 186 mg of methyl 4-(4-benzylpiperazin-1-yl)butanoate (186 mg, 1.0 mmol) was added to the reaction mixture and stirred 24 h. PS-trisamine (1.08 g, 5 eq.) was added and stirred 16 h. The reaction mixture was filtered and evaporated to afford methyl 4-{4-[N-(tert-butoxycarbonyl)-beta-alanyl]piperazin-1-yl}butanoate (290 mg, 77%).

reactant | carbodiimide | 1.5 mmoles, 1.7 g | N=C=N | CH2N2
reactant | 4-(tert-butoxycarbonylamino)butyric acid | 1.5 mmoles, 305 mg | C(C)(C)(C)OC(=O)NCCCC(=O)O | C9H17NO4
reactant | HOBT | 1.7 mmoles, 230 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | methyl 4-(4-benzylpiperazin-1-yl)butanoate | 1.0 mmol, 186 mg | C(C1=CC=CC=C1)N1CCN(CC1)CCCC(=O)OC | C16H24N2O2
reactant | trisamine | 1.08 g, 5 eq. | C(C(CO)(CO)N)O | C4H11NO3
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | methyl 4-{4-[N-(tert-butoxycarbonyl)-beta-alanyl]piperazin-1-yl}butanoate | 290 mg, 77% | C(C)(C)(C)OC(=O)NCCC(=O)N1CCN(CC1)CCCC(=O)OC | C17H31N3O5
